US09260439B2
Step 2: Preparation of 2-{4-chloro-6-[(3,3-difluorocyclobutyl)amino]-2-(methylsulfanyl)pyrimidin-5-yl}ethanol
To a vial containing 2-[4,6-dichloro-2-(methylsulfanyl)pyrimidin-5-yl]ethanol (600 mg, 2.51 mmol) and 3,3-difluorocyclobutylamine (540 mg, 3.76 mmol) in acetonitrile (12.5 mL) was added DIPEA (2.21 mL, 12.5 mmol) at room temperature, and the mixture was stirred at 100° C. in an oil bath for 6.5 h. The reaction mixture was concentrated under reduced pressure, and the residue was purified via silica gel chromatography using a gradient of EtOAc/heptane (20-40%) to afford the title compound (722.5 mg, 93%) as light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 7.60 (d, J=5.5 Hz, 1 H), 4.82 (br s, 1 H), 4.38-4.26 (m, 1 H), 3.56-3.47 (m, 2 H), 3.03-2.87 (m, 2 H), 2.83-2.65 (m, 4 H), 2.42 (s, 3 H). m/z (APCI+) for C11H14ClF2N3OS 310.1 (M+H)+.

reactant | 2-[4,6-dichloro-2-(methylsulfanyl)pyrimidin-5-yl]ethanol | 2.51 mmol, 600 mg | ClC1=NC(=NC(=C1CCO)Cl)SC | C7H8Cl2N2OS
reactant | 3,3-difluorocyclobutylamine | 3.76 mmol, 540 mg | FC1(CC(C1)N)F | C4H7F2N
reactant | DIPEA | 12.5 mmol, 2.21 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 12.5 mL | C(C)#N | C2H3N
product | 2-{4-chloro-6-[(3,3-difluorocyclobutyl)amino]-2-(methylsulfanyl)pyrimidin-5-yl}ethanol | 722.5 mg, 93% | ClC1=NC(=NC(=C1CCO)NC1CC(C1)(F)F)SC | C11H14ClF2N3OS
